US08211927B2
F: 4-Chloro-5-(4-(trifluoromethyl)phenyl)-N-(3-hydroxyphenyl)isoxazole-3-carboxamide
A mixture of 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carbonyl chloride (15 mg, 0.05 mmol), 3-aminophenol (12.7 mg, 0.10 mmol) and potassium carbonate (7 mg, 0.05 mmol) in dichloromethane (8 mL) was heated to 45° C. overnight. The volatiles were removed in vacuo and the compound was purified by silica gel chromatography eluting with 3% methanol in dichloromethane to afford the title compound: (7.7 mg, 0.02 mmol). MS (ESI) m/z (M+H+): 383.1.

reactant | 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carbonyl chloride | 0.05 mmol, 15 mg | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C11H4Cl2F3NO2
reactant | 3-aminophenol | 0.10 mmol, 12.7 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | potassium carbonate | 0.05 mmol, 7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-Chloro-5-(4-(trifluoromethyl)phenyl)-N-(3-hydroxyphenyl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)NC1=CC(=CC=C1)O | C17H10ClF3N2O3
